US04778790
t-Butyl rel-α-[3(S)-(8-t-butoxycarbonylamino-1-ethoxycarbonyloctylamino)-2-oxo-6(R)-phenylperhydroazepin-1-yl]acetate
1.2 g of t-butyl rel-α-[3(S)-amino-2-oxo-6(R)-phenylperhydroazepin-1-yl]acetate was treated with 2.15 g of ethyl 2-bromo-9-t-butoxycarbonylaminononanoate prepared as described in Preparation 4) in a similar manner to that described in Example 4, to afford a reaction product, which was subjected to column chromatography through silica gel using a mixture of cyclohexane and ethyl acetate in the ratio of 1:1 by volume as the eluent.

reactant | t-butyl rel-α-[3(S)-amino-2-oxo-6(R)-phenylperhydroazepin-1-yl]acetate | 1.2 g | N[C@@H]1C(N(C[C@H](CC1)C1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C18H26N2O3
reactant | ethyl 2-bromo-9-t-butoxycarbonylaminononanoate | 2.15 g | BrC(C(=O)OCC)CCCCCCCNC(=O)OC(C)(C)C | C16H30BrNO4
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-Butyl rel-α-[3(S)-(8-t-butoxycarbonylamino-1-ethoxycarbonyloctylamino)-2-oxo-6(R)-phenylperhydroazepin-1-yl]acetate | C(C)(C)(C)OC(=O)NCCCCCCCC(C(=O)OCC)N[C@@H]1C(N(C[C@H](CC1)C1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C34H55N3O7
